US07618989B2
Benzoyl isothiocyanate (4.28 mL, 31.8 mmol) was added under nitrogen to a solution of 2-amino-2-ethylbutan-1-ol (3.7315 g, 31.8 mmol), prepared in the previous step, in 100 mL of anhydrous tetrahydrofuran (exotherm on addition). After the addition, the reaction was refluxed for 2.5 h. After cooling to room temperature, 100 mL of hexane was added. The solid that formed was collected by filtration and dried under reduced pressure to give N-({[1-ethyl-1-(hydroxymethyl)propyl]amino}carbonothioyl)benzamide (7.1406 g, 80%) as a white solid, mp 161-163° C.; MS (ESI) m/z 281 [M+H]+.

reactant | Benzoyl isothiocyanate | 31.8 mmol, 4.28 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 2-amino-2-ethylbutan-1-ol | 31.8 mmol, 3.7315 g | NC(CO)(CC)CC | C6H15NO
reactant | hexane | 100 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-({[1-ethyl-1-(hydroxymethyl)propyl]amino}carbonothioyl)benzamide | 7.1406 g, 80% | C(C)C(CC)(CO)NC(=S)NC(C1=CC=CC=C1)=O | C14H20N2O2S
